Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
CHIEF COMPLAINT: "I was feeling like suicide"

 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: 
The patient is a ___ y/o ___ male, student at ___ 
___
who has self presented to the ED twice over the past 24 hours
complaining of side effects from taking ___ and ecstasy} ___
weeks ago and daily use of MJ. Initially endorsing physical
complaints now endorsing of suicidal ideation,has been punching
himself trying to kill himself and reports visual 
hallucinations.

On initial interview patient endorsed the following:   
He said " I feel like I am highly depressed and I can't stop
being aggressive (verbally} when I talk to people my thoughts 
are
not logical. When I poop I feel the drugs come out but I feel
like the drugs come up again."  He said "I want to be by myself
...want to get the drugs out of my system and sleep."
He reports he started using MJ several years ago, now smokes on 
a
daily basis and used ___ and Ecstasy to give him "more energy,
being to stay alone and focus on  things." He said he thought 
the
drugs would help him with his school work, but now feels that 
the
drugs make him feel more paranoid, anxious and feels that if he
could get the drugs out of his system he would feel better.
He denies overt psychosis but said that "sounds are more
exaggerated," that drugs are still in his body and he continues
to feel the effect and he is now not able to express himself
perfectly. He feels increasingly isolated, more anxious and has
noticed that he has been more verbally forward towards people 
and
has dispensed with the usual banter and has been more
disinhibited.

He reports "always feeling paranoid and "always feel like people
follow me. I feel highly depressed". He presented with SI, which
he now denies. However this morning was punching himself in an
attempt to kill himself is currently feeling depressed, sad,
reports he sleeps well, no appetite changes, no changes in
energy, but is extremely anxious, he interrupted the interview
several times as he became so anxious and had difficulty 
catching
his breath.

On interview patient endorsed the following; 

Patient states that he first tried ___ about 3 weeks ago,
during this time he had a similar reaction to the one he is
currently having with the anxiety, and increased energy. About
___ days ago he took some ecstasy about 1 gram he states he took
this because he could not get his hands on ___ at the time. He
noticed that he had a much stronger reaction this time with the
drugs and notes that his anxiety is very high, he believes this
is due to the fact that his body is not metabolizing "digesting"
the drug as well as in the past. He states that for the past 2
days he has not felt like himself, he feels as if he is talking
more, and can not control what he says, he is aware of 
everything
he is saying but can not control the word that come out of his
mouth. Patient is paranoid that people are mad at him and that 
he
is saying the wrong things. He also notes that yesterday his 
mood
was very low and he started to feel the "deepest sadness" and
having suicidal thoughts, he denies any plan or intent. He also
notes he had been having visual hallucinations, but denies 
having
these currently. 

As the interview progressed patient became increasingly anxious
and worried that the interviewer believed he was crazy, he began
stating that he was just nervous as this was his first year
outside of ___ and this was anxiety provoking for him. He had 
a
difficult time understanding why he had to remain in the
hospital, and started to ask if he was to be kept by the ___
government. He also asked on multiple occasions for the
interviewer to tell him the truth as to how long he was to be
kept in the hospital, despite multiple attempts at being
reassured he would not be here indefinitely. Patient later 
stated
"you are hurting me" when asked to elaborate he stated that he
was being taken advantage of because he was not a native ___
speaker. At this time patient denies SI, HI, AVH. 
   

   

 
Past Medical History:
"bowel problems"
 
Social History:
___
Family History:
denies
 
Physical Exam:
VS: BP:145/79   HR:85   temp:98.4    resp:18  O2 sat:99%RA 

General: Young adult male in NAD. ___, 
___.
Appears stated age.
 HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx 
clear.
 Neck: Supple.
 Back: No significant deformity.
 Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 CV: RRR, no murmurs/rubs/gallops. 
 Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
 Extremities: No clubbing, cyanosis, or edema.
 Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
 Cranial Nerves:
 -Pupils symmetry and responsiveness to light and accommodation:
PERRLA
 -Visual fields: full to confrontation
 -EOM: full
 -Facial sensation to light touch in all 3 divisions: equal
 -Vacial symmetry on eye closure and smile: symmetric
 -Hearing bilaterally to rubbing fingers: normal
 -Phonation: normal
 -Shoulder shrug: intact
 -Tongue: midline

Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. DTRs: 2+ and symmetrical
throughout. Sensation: Intact to light touch throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.
 Romberg: Negative.

Cognition: 
 Wakefulness/alertness: awake and alert
 Attention: intact to interview
 Orientation: oriented to person, time, place, situation
 Executive function ___ go, Luria, trails, FAS): not tested
 Memory: intact to recent and past history
 Fund of knowledge: consistent with education
 Calculations: not assessed
 Abstraction: not assessed
 Visuospatial: not assessed
 Speech: normal rate, volume, and tone
 Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

 
Pertinent Results:
___ 03:00PM URINE  ___
___ 03:00PM URINE  ___ 
___
___ 03:00PM URINE  ___ SP ___
___ 03:00PM URINE  ___ 
___ 
___
___ 03:00PM URINE  ___ 
___
___ 03:00PM URINE  ___
___ 03:00PM URINE  ___
___ 11:25AM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 11:25AM   ___ this
___ 11:25AM   ALT(SGPT)-8 AST(SGOT)-18 ALK ___ TOT 
___
___ 11:25AM   ___
___ 11:25AM   ___ 
___
___ 11:25AM   ___ 
___
___ 11:25AM   ___ 
___ IM ___ 
___
___ 11:25AM   PLT ___
___ 11:20AM URINE  ___
___ 11:20AM URINE  ___
___ 11:20AM URINE  ___ SP ___
___ 11:20AM URINE  ___ 
___ 
___
___ 11:20AM URINE  ___ 
___ TRANS EPI-<1
___ 11:20AM URINE  ___
 
Brief Hospital Course:
Pt was admitted to Deac 4 unit on ___, later able to sign 
voluntary. 
Initially paranoid, worried about ___ government" holding 
him in a hospital, later, able o calm down and cooperate. Pt 
reported that he felt restless and hyper after he took 
amphetamines, he was unable to sleep, had severe racing 
thoughts, and he was able to recognize that his thinking was 
distorted, he observed unusual sensitivity to sound, light and 
touch., Poor appetite, unable to concentrate and study. He 
visited ED twice before the admission. Agreed top take 
medications, Haldol 0.5 mg po bid and Ativan 0.5 mg po bid. 
Tolerated medications well, without major side effects. Visible 
___, able to participate in groups. Contracted for safety 
at all times. Within days patient's symptoms improved. Socila 
worker was able to contact patient's school, book appointment 
with psychiatrist and PCP. Pt appreciated that. Discharged ___ 
in a stable condition. 
 
Medications on Admission:
none
 
Discharge Medications:
1.  Haloperidol 0.5 mg PO BID 
RX *haloperidol 0.5 mg 1 tablet(s) by mouth twice a day Disp 
#*10 Tablet Refills:*0 
2.  LORazepam 0.5 mg PO BID 
RX *lorazepam [Ativan] 0.5 mg 1 by mouth twice a day Disp #*10 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
psychotic order secondary to substance use, stimulants, cannabis 
use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for your concerns for symptoms of 
anxiety and possibly symptoms of paranoia related to substance 
use.  

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___